US08791267B2
Synthesis of 1-(6-Methoxy-3′-nitro-biphenyl-3-ylmethyl)-1H-benzotriazole (P-482).
A suspension of 1-(3-Bromo-4-methoxy-benzyl)-1H-benzotriazole (I-106) (477 mg, 1.50 mmol), 3-nitrophenylboronic acid (250 mg, 1.50 mmol), palladium(0) bis(dibenzylideneacetone) (43 mg, 0.075 mmol), and triphenyl phosphine (39 mg, 0.15 mmol) in dimethylformamide (10 mL) and 1 M aqueous sodium carbonate (4.5 mL, 4.5 mmol) was heated to 85° C. with stirring overnight. The solvent was removed under vacuum and the residue suspended in ethyl acetate (20 mL). The organic suspension was washed with water (3×20 mL) and brine, dried over sodium sulfate, decolorized over activated carbon, and the solvent removed under vacuum to give crude material. The residue was purified dissolving in ethyl acetate (5 mL) and adding hexanes (25 mL) until a solid formed. This was repeated 3 times to give P-482 (210 mg, 39% yield). 1H NMR (400 MHz, CDCl3) 1H NMR (400 MHz, CDCl3): 3.82 (s, 3H), 5.86 (s, 2H), 6.98 (d, J=8.2 Hz, 1H), 7.30-7.37 (m, 2H), 7.37-7.52 (m, 3H), 7.52-7.59 (m, 1H), 7.75 (d, J=7.8 Hz, 1H), 8.12 (d, J=8.3 Hz, 1H), 8.18 (dd, J=8.2, 1.2 Hz, 1H), 8.35 (d, J=1.6 Hz, 1H) ppm. LCMS=93.9% purity.

reactant | 1-(3-Bromo-4-methoxy-benzyl)-1H-benzotriazole | 1.50 mmol, 477 mg | BrC=1C=C(CN2N=NC3=C2C=CC=C3)C=CC1OC | C14H12BrN3O
reactant | 3-nitrophenylboronic acid | 1.50 mmol, 250 mg | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
reactant | triphenyl phosphine | 0.15 mmol, 39 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium carbonate | 4.5 mmol, 1 M, 4.5 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
catalyst | palladium(0) bis(dibenzylideneacetone) | 0.075 mmol, 43 mg | C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.[Pd]
product | 1-(6-Methoxy-3′-nitro-biphenyl-3-ylmethyl)-1H-benzotriazole | 39% yield | COC1=CC=C(C=C1C1=CC(=CC=C1)[N+](=O)[O-])CN1N=NC2=C1C=CC=C2 | C20H16N4O3
